US07718657B2
4-Nitro-2,3-dihydro-1H-inden-1-one.
To a 0° C. solution of indanone (1.1 mL, 9.16 mmol, 1.0 equiv) in concentrated H2SO4 (9 mL) was added KNO3 (926 mg, 9.16 mmol, 1.0 equiv) as a solid in several portions over 5 min. After stirring for 1 h, the reaction mixture was poured onto ice. The aqueous suspension was extracted with EtOAC (3×30 mL), and the combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. Purification by silica gel chromatography (20%-50% EtOAc/Hexanes) provided the desired compound as a yellow solid (288 mg, 18%).

reactant | indanone | 9.16 mmol, 1.1 mL, 1.0 equiv | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | KNO3 | 9.16 mmol, 926 mg, 1.0 equiv | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 9 mL | OS(=O)(=O)O | H2O4S
product | 4-Nitro-2,3-dihydro-1H-inden-1-one | 288 mg, 18% | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)=O | C9H7NO3
